US08022223B2
1-(4-(2-(3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)pyridin-2-ylamino)thiazol-4-yl)piperidin-1-yl)ethanone hydrochloride
A 20 mL vial was charged with 3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)-N-(4-(piperidin-4-yl)thiazol-2-yl)pyridin-2-amine (40 mg, 0.068 mmol), triethylamine (0.0190 mL, 0.14 mmol), and CH2Cl2 (2 mL). Ac2O (0.008 mL, 0.082 mmol) was added and the reaction was stirred at room temperature for 10 minutes. The reaction was partitioned between CH2Cl2 and saturated aqueous sodium bicarbonate. The organic layer was dried with sodium sulfate, filtered and concentrated to afford the title compound (38.2 mg, 84.2% yield) as a white solid after HCl salt formation. 1H NMR (d6-DMSO) δ 11.20 (bs, 1H), 8.17 (d, 1H), 7.74 (m, 1H), 7.31 (m, 2H), 7.21 (t, 1H), 6.93 (d, 1H), 6.78 (m, 1H), 6.74 (s, 1H), 6.71 (m, 2H), 4.43 (d, 1H), 3.87 (d, 1H), 3.69 (s, 3H), 3.14 (m, 1H), 2.86 (m, 1H), 2.64 (m, 1H), 2.01 (s, 3H), 1.95 (m, 2H), 1.58 (m, 1H), 1.45 (m, 1H). Mass spectrum (apci) m/z=631.4 (M+H—HCl).

reactant | 3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)-N-(4-(piperidin-4-yl)thiazol-2-yl)pyridin-2-amine | 0.068 mmol, 40 mg | BrC1=C(OC=2C(=NC=C(C2)SC2=CC(=CC=C2)OC)NC=2SC=C(N2)C2CCNCC2)C=CC(=C1)F | C26H24BrFN4O2S2
reactant | triethylamine | 0.14 mmol, 0.0190 mL | C(C)N(CC)CC | C6H15N
reactant | Ac2O | 0.082 mmol, 0.008 mL | CC(=O)OC(=O)C | C4H6O3
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-(2-(3-(2-bromo-4-fluorophenoxy)-5-(3-methoxyphenylthio)pyridin-2-ylamino)thiazol-4-yl)piperidin-1-yl)ethanone hydrochloride | 38.2 mg, 84.2% yield | Cl.BrC1=C(OC=2C(=NC=C(C2)SC2=CC(=CC=C2)OC)NC=2SC=C(N2)C2CCN(CC2)C(C)=O)C=CC(=C1)F | InChI=1S/C28H26BrFN4O3S2.ClH/c1-17(35)34-10-8-18(9-11-34)24-16-38-28(32-24)33-27-26(37-25-7-6-19(30)12-23(25)29)14-22(15-31-27)39-21-5-3-4-20(13-21)36-2;/h3-7,12-16,18H,8-11H2,1-2H3,(H,31,32,33);1H
